US06903126B2
a) 6-[[1-Phenyl-2-oxo-2,3-dihydro-1H-benzoimidazol-6-yl]oxy]hexanoic acid methyl ester
7.5 g of 6-(3-phenylamino-4-aminophenyl)oxyhexanoic acid methyl ester was mixed with 8.23 g of urea, and the mixture was heated to 140° C. for 4 hours. After cooling, it was mixed with water, extracted three times with ethyl acetate, the combined organic phases were washed with saturated sodium chloride solution, dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue was crystallized from diisopropyl ether. 4.27 g was obtained.

reactant | 6-(3-phenylamino-4-aminophenyl)oxyhexanoic acid methyl ester | 7.5 g | COC(CCCCCOC1=CC(=C(C=C1)N)NC1=CC=CC=C1)=O | C19H24N2O3
reactant | urea | 8.23 g | NC(=O)N | CH4N2O
solvent | water | O | H2O
product | 6-[[1-Phenyl-2-oxo-2,3-dihydro-1H-benzoimidazol-6-yl]oxy]hexanoic acid methyl ester | COC(CCCCCOC=1C=CC2=C(N(C(N2)=O)C2=CC=CC=C2)C1)=O | C20H22N2O4
